US06953793B2
B. (R)-1-[3-(4-Chloro-3-methyl-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone.
(R)-1-[3-(4-Chloro-3-methyl-phenyl)-1-(2,3-dihydroxy-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (452 mg, 1.24 mmol) and pyridinium p-toluenesulfonate (85 mg) were combined in MeC(OMe)3 (50 mL) and briefly sonicated. The mixture was stirred for 17 h, concentrated, and the residue dissolved in CH2Cl2 (8 mL). The solution was cooled to 0° C. and treated with AcBr (0.15 mL, 2.0 mmol). After 5 h the mixture was partitioned between EtOAc (300 mL) and saturated aqueous NaHCO3 (75 mL). The EtOAc layer was washed with H2O (75 mL) and brine (75 mL), dried over Na2SO4 and concentrated. The residue was combined with K2CO3 (243 mg, 1.84 mmol) in MeOH (50 mL) and stirred for 3 h then worked up as described above. Purification by column chromatography (silica, 10-40% acetone/CH2Cl2) gave 159 mg (37%) of the title compound. Chiral HPLC (Daicel OD, 0.5% Et2NH/MeOH) analysis indicated >95% optical purity. HPLC (reverse phase conditions), tR=4.97 min. MS (electrospray): exact mass calculated for C18H20ClN3O2 [M++Na], 368.11. m/z found 368.05. 1H NMR (CDCl3, 400 MHz, a mixture of amide rotamers): 7.54 (br d, J=6.3 Hz, 2H), 7.41-7.35 (m, 3H), 7.29 (dd, J=8.2, 1.9 Hz, 1H), 4.81 and 4.74 (A and B of AB quartet, Jab=15.7 Hz, 2H), 4.60 (s, 2H), 4.48 (dd, J=15.2, 2.4 Hz, 1H), 4.42 (dd, J=15.4, 2.8 Hz, 1H), 4.13 (t, J=4.7 Hz, 1H), 4.09 (dd, J=4.6 Hz, 1H), 3.93 (m, 2H), 3.74 (t, J=5.8 Hz, 1H), 3.73 (t, J=5.8 Hz, 1H), 3.34 (m, 2H), 2.85-2.75 (m, 6H), 2.53 (dd, J=4.6, 2.5 Hz, 1H), 2.48 (dd, J=4.6, 2.6 Hz, 1H), 2.43 (s, 3H), 2.41 (s, 3H), 2.20 (s, 3H), 2.15 (s, 3H).

reactant | (R)-1-[3-(4-Chloro-3-methyl-phenyl)-1-(2,3-dihydroxy-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 1.24 mmol, 452 mg | ClC1=C(C=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)C[C@H](CO)O)C | C18H22ClN3O3
reactant | pyridinium p-toluenesulfonate | 85 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | AcBr | 2.0 mmol, 0.15 mL | C(=O)(C)Br | C2H3BrO
reactant | K2CO3 | 1.84 mmol, 243 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeC(OMe)3 | 50 mL | CC(OC)(OC)OC | C5H12O3
solvent | MeOH | 50 mL | CO | CH4O
product | (R)-1-[3-(4-Chloro-3-methyl-phenyl)-1-oxiranylmethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 159 mg, 37% | ClC1=C(C=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)C[C@H]2OC2)C | C18H20ClN3O2
